US04443615
Aniline and propylene glycol were reacted at a molar ratio shown in Table 17 in the same manner as described in Example 1, whereby 3-methylindole was obtained as a main product. The results are shown in the following Table 17.

reactant | Aniline | NC1=CC=CC=C1 | C6H7N
reactant | propylene glycol | C(C(C)O)O | C3H8O2
product | 3-methylindole | CC1=CNC2=CC=CC=C12 | C9H9N
